US04568375
2-Ethoxy-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran
In this example, 0.16 g of sodium was added to 10 ml of anhydrous ethanol at room temperature resulting in the formation sodium ethoxide. A solution containing 2.5 g of 2-bromo-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran in 10 ml of ethanol was slowly added and the resulting mixture stirred at room temperature for one hour. The mixture was then evaporated to remove solvent. The residue was dissolved in methylene chloride, washed with water, dried over magnesium sulfate evaporated yielding in oil residue. The residue was chromatographed eluting with tetrahydrofuran:chloroform mixtures. The produced fractions afforded 1 g of the title compound.

reactant | 2-bromo-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran | 2.5 g | BrC1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C | C13H11BrF3NO2
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Ethoxy-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran | 1 g | C(C)OC1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C | C15H16F3NO3
